US09126993B2
N-(2-(3-methoxyphenyl)propan-2-yl)-2-(quinuclidin-3-yl)acetamide
Using general procedure I, 2-(quinuclidin-3-yl)acetic acid (169 mg, 1.00 mmol) and 2-(3-methoxyphenyl)propan-2-amine (182 mg, 1.10 mmol) gave the title compound as a white solid (126 mg, 40%). 1H NMR (400 MHz, CDCl3) δ 7.39 (s, 1H), 7.20 (t, J=8.0 Hz, 1H), 6.92 (d, J=8.0 Hz, 1H), 6.87 (d, J=2.0 Hz, 1H), 6.71 (dd, J=8.0, 2.0 Hz, 1H), 3.75 (s, 3H), 3.31-3.42 (m, 2H), 3.00-3.19 (m, 4H), 2.47-2.60 (m, 2H), 2.27 (dd, J=14.0, 6.0 Hz, 1H), 1.83-2.06 (m, 4H), 1.64-1.74 (m, 1H), 1.61 (d, J=12.4 Hz, 6H) ppm. 13C NMR (400 MHz, CDCl3) δ 170.0, 159.7, 149.3, 129.5, 117.5, 111.8, 111.0, 55.9, 55.4, 52.0, 50.6, 46.6, 46.0, 39.7, 30.9, 29.7, 29.1, 24.3, 18.8 ppm. Purity: 93.7% HPLCMS (210 nm); retention time 0.76 min; (M+1) 317.

reactant | 2-(quinuclidin-3-yl)acetic acid | 1.00 mmol, 169 mg | N12CC(C(CC1)CC2)CC(=O)O | C9H15NO2
reactant | 2-(3-methoxyphenyl)propan-2-amine | 1.10 mmol, 182 mg | COC=1C=C(C=CC1)C(C)(C)N | C10H15NO
product | N-(2-(3-methoxyphenyl)propan-2-yl)-2-(quinuclidin-3-yl)acetamide | 126 mg, 40% | COC=1C=C(C=CC1)C(C)(C)NC(CC1CN2CCC1CC2)=O | C19H28N2O2
